Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine / fentanyl
 
Attending: ___.
 
Chief Complaint:
Bloody Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with a PMH significant for 
HTN
who presents with abdominal pain, intermittent nausea, vomiting,
and bloody stools. Symptoms began suddenly at 5:00 AM on ___
when patient vomited 3 times, and noted that vomit had pink
tinge. She continued to be nauseous without further vomiting. On
___ she had three unremarkable bowel movements, and was still
unable to eat due to nausea. She also noted fevers and chills. 
On
___ between 5:00 AM and 11:00 AM, she had 2 bloody bowel
movements that she described as being purely blood/clots, at
which point she called her PCP and was advised to come to the 
ED.

- In the ED, initial vitals @ 1334 on ___ were: T: 98.2, P: 83,
BP: 111/61, R: 18, O2 Sat: 99% RA
- Exam was notable for: Abdominal tenderness, LLQ > LUQ/RLQ, no
rebound tenderness.
- Labs were notable for: Leukocytosis, Mild Anemia
- Studies were notable for: Left sided colitis
- The patient was given: Ciprofloxacin, Metronidazole, 1L LR

On arrival to the floor, patient noted continued left sided
abdominal pain, and she had one small bowel movement that
consisted of only a blood clot. She denies shortness of breath,
recent illness, chest pain, nausea, vomiting, pain with
urination, and vaginal bleeding. Last colonoscopy was ___ years 
ago
and was unremarkable per patient.

 
Past Medical History:
HTN
Dysphonia
Nephrolithiasis (age ___
Right Ovarian Cystectomy, Appendectomy (both age ___
G3 ___, all NSVD without complications
 
Social History:
___
Family History:
Mother: ___ Cancer, ___ AVM
Sister: ___ Type 2
Sister: ___

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T: 99.2, BP: 136 / 73, P: 86, R: 18, O2 Sat: 98% on RA
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: +LLQ>LUQ/RLQ tenderness, no rebound tenderness.
Otherwise non-tender, abdomen non-distended. Normal bowels
sounds.
EXTREMITIES: No ___ edema.
SKIN: Warm. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM
========================
PHYSICAL EXAM:
VS:
24 HR Data (last updated ___ @ 829)
    Temp: 98.0 (Tm 98.8), BP: 126/76 (108-126/67-78), HR: 74
(71-81), RR: 18 (___), O2 sat: 99% (97-99), O2 delivery: Ra   

GENERAL: Sitting up in bed, eating breakfast, NAD
PULM: Breathing comfortably. Clear to auscultation in posterior
and anterior fields.
CARDIAC: RRR. Audible S1/S2.
ABD: Soft, tenderness to palpation in epigastrium/LLQ/LUQ, no
rebound, active bowel sounds.
NEURO: A&Ox3

 
Pertinent Results:
ADMISSION LABS
=================
___ 02:09PM BLOOD WBC-12.3* RBC-4.72 Hgb-12.0 Hct-36.7 
MCV-78* MCH-25.4* MCHC-32.7 RDW-13.0 RDWSD-36.8 Plt ___
___ 02:09PM BLOOD Neuts-81.4* Lymphs-11.0* Monos-6.6 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-10.04* AbsLymp-1.36 
AbsMono-0.81* AbsEos-0.01* AbsBaso-0.05
___ 02:09PM BLOOD ___ PTT-27.4 ___
___ 02:09PM BLOOD Glucose-109* UreaN-16 Creat-0.8 Na-140 
K-3.9 Cl-103 HCO3-22 AnGap-15
___ 06:55AM BLOOD ALT-7 AST-11 AlkPhos-50 TotBili-1.3
___ 06:55AM BLOOD Calcium-8.8 Phos-3.2 Mg-2.1 Iron-27*
___ 06:55AM BLOOD calTIBC-294 Ferritn-620* TRF-226
___ 06:41PM BLOOD Lactate-1.3

DISCHARGE LABS
=============
___ 06:42AM BLOOD WBC-8.1 RBC-3.82* Hgb-9.8* Hct-30.5* 
MCV-80* MCH-25.7* MCHC-32.1 RDW-13.0 RDWSD-37.1 Plt ___
___ 06:42AM BLOOD Glucose-97 UreaN-10 Creat-0.7 Na-142 
K-3.8 Cl-106 HCO3-25 AnGap-11

MICROBIOLOGY
=============
___ 9:51 am STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   FECAL CULTURE (Pending): 

   CAMPYLOBACTER CULTURE (Pending): 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

C DIFF - NEGATIVE PCR

IMAGING
=======
1. Acute colitis involving the descending ___.  Given 
preserved enhancement 
of the mucosa along this segment, findings likely reflect a 
colitis of 
infectious or inflammatory nature. 
2. No evidence of active GI bleeding. 
3. Diverticulosis without evidence of acute diverticulitis. 

 
Brief Hospital Course:
___ year old female with a PMH significant for HTN who presents 
with abdominal pain, intermittent nausea, vomiting, and bloody 
stools with CT notable for colitis, treated with ciprofloxacin 
and metronidazole. 

ACUTE ISSUES
=============
#Abdominal Pain
#Nausea, Vomiting
#Bloody Diarrhea
Based on history and CT findings, most likely infectious vs. 
inflammatory colitis. C. diff negative, other stool studies 
pending at time of discharge. She improved clinically with 
ciprofloxacin and metronidazole and is being discharged with a 
prescription to complete a 7 day course (D1= ___. 
Colonoscopy was deferred to the outpatient setting. 

CHRONIC ISSUES
==============
#HTN
We held her home HCTZ due to soft BPs on arrival, it was 
restarted on discharge.

TRANSITIONAL ISSUES
===================
[] Recommend screening colonoscopy after resolution of symptoms
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO BID 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*12 Tablet Refills:*0 
3.  Hydrochlorothiazide 12.5 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Colitis 

Secondary Diagnosis:
HTN

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
___ was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital for sudden abdominal pain, vomiting, 
and bloody stools. 
- While you were in the emergency department, you were found to 
have swelling and inflammation of a segment of your large 
intestine (___). 
- You were admitted for further treatment and evaluation.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- While you were in the hospital, we treated you with 
antibiotics (ciprofloxacin, metronidazole). 
- We would recommend that you have a colonoscopy as an 
outpatient.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.

We wish you the best!  

Sincerely,  
Your ___ Team
 
Followup Instructions:
___